US05852017
1-Benzylcarbamoylmethyl-7-(1-pyrrolyl)-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione
2.0 g (6.5 mmol) of 1-carboxymethyl-7-(1-pyrrolyl)-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione and 0.64 g (5.9 mmol) of benzylamine were dissolved in 50 ml of anhydrous dimethylformamide. At 0° C., 1.6 g (5.9 mmol) of diphenylphosphoryl azide dissolved in a little dimethylformamide, and 1.3 g (12.5 mmol) of triethylamine were successively added dropwise. The mixture was stirred at room temperature for 4 h and then poured into water buffered with sodium bicarbonate. The resulting precipitate was filtered off with suction to yield 1.6 g (62%) of the product. Melting point 241°-242° C.

reactant | 1-carboxymethyl-7-(1-pyrrolyl)-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | 6.5 mmol, 2.0 g | C(=O)(O)CN1C(C(NC2=CC(=C(C=C12)N1C=CC=C1)C(F)(F)F)=O)=O | C15H10F3N3O4
reactant | benzylamine | 5.9 mmol, 0.64 g | C(C1=CC=CC=C1)N | C7H9N
reactant | diphenylphosphoryl azide | 5.9 mmol, 1.6 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 12.5 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Benzylcarbamoylmethyl-7-(1-pyrrolyl)-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | 1.6 g, 62% | C(C1=CC=CC=C1)NC(=O)CN1C(C(NC2=CC(=C(C=C12)N1C=CC=C1)C(F)(F)F)=O)=O | C22H17F3N4O3
